US07943622B2
Step 2. Synthesis of (2-(4-chlorophenyl)-4-methyloxazol-5-yl)(2-((pyridin-3-yloxy)methyl)piperazin-1-yl)methanone trihydrochloride
TBTU (141 mg, 0.438 mmol) was added to a solution of Intermediate C (86 mg, 0.29 mmol), 2-(4-chlorophenyl)-4-methyloxazole-5-carboxylic acid (76 mg, 0.32 mmol), and triethylamine (0.123 mL, 0.876 mmol) in DMF (4 mL). After stirring overnight, 1N NaOH (3 mL) was added, and the reaction mixture was stirred for 30 min. Water (15 mL) was added, and the reaction mixture was extracted with EtOAc (3×40 mL). The EtOAc extracts were combined, washed with aqueous NaOH (2×10 mL) and brine (10 mL), dried over Na2SO4, filtered, and concentrated under reduced pressure. The material was purified by HPLC (5 to 95% MeCN/0.1% TFA in H2O/0.1% TFA gradient), yielding a yellow oil. The material was dissolved in MeOH (1 mL) and treated with 4 M HCl in 1,4-dioxane (5 mL, 20 mmol). After stirring for 5 h, the reaction mixture was concentrated under reduced pressure and purified by HPLC (5 to 95% MeCN/0.1% TFA in H2O/0.1% TFA gradient) to give 37.2 mg (24%) of the title compound as a white solid. LC-MS: RT=4.74 min, [M+H]+=413.6.

reactant | TBTU | 0.438 mmol, 141 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | 2-(4-chlorophenyl)-4-methyloxazole-5-carboxylic acid | 0.32 mmol, 76 mg | ClC1=CC=C(C=C1)C=1OC(=C(N1)C)C(=O)O | C11H8ClNO3
reactant | triethylamine | 0.876 mmol, 0.123 mL | C(C)N(CC)CC | C6H15N
reactant | NaOH | 1N, 3 mL | [OH-].[Na+]
reactant | HCl | 4 M | Cl | ClH
reactant | 1,4-dioxane | 20 mmol, 5 mL | O1CCOCC1 | C4H8O2
reactant | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | MeOH | 1 mL | CO | CH4O
solvent | Water | 15 mL | O | H2O
product | (2-(4-chlorophenyl)-4-methyloxazol-5-yl)(2-((pyridin-3-yloxy)methyl)piperazin-1-yl)methanone trihydrochloride | 37.2 mg, 24% | Cl.Cl.Cl.ClC1=CC=C(C=C1)C=1OC(=C(N1)C)C(=O)N1C(CNCC1)COC=1C=NC=CC1 | InChI=1S/C21H21ClN4O3.3ClH/c1-14-19(29-20(25-14)15-4-6-16(22)7-5-15)21(27)26-10-9-24-11-17(26)13-28-18-3-2-8-23-12-18;;;/h2-8,12,17,24H,9-11,13H2,1H3;3*1H
